US07807709B2
d. 4-Methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid
A solution of 4-methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid ethyl ester (0.87 g, 3.24 mmol) in a 1:1 mixture of THF and 4N NaOH (10 mL) is stirred at 50° C. overnight. After cooling, the volatiles are removed at reduced pressure, the remaining aqueous phase is acidified to pH 1 by dropwise addition of HCl 37%, and the resulting suspension is filtered off. The precipitate is washed with water, dried overnight in vacuo to give the title compound. TLC, Rf (hexane/AcOEt 1:1)=0.07. MS: 239.0 [M−H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 2.71 min. 1H-NMR (DMSO-d6): δ 3.29 (s, 3H), 3.52 (m, 2H), 3.64 (m, 2H), 3.88 (s, 3H), 4.51 (s, 2H), 7.10 (m, 1H), 7.90 (m, 1H), 7.94 (m, 1H), 12.6 (s, br, 1H) ppm.

reactant | 4-methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid ethyl ester | 3.24 mmol, 0.87 g | C(C)OC(C1=CC(=C(C=C1)OC)COCCOC)=O | C14H20O5
reactant | NaOH | 4N, 10 mL | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)COCCOC | C12H16O5
